US08440658B2
To a solution of methyl tert-butyl(3-hydroxy-3-phenylhex-5-enyl)carbamate (600 mg, 1.97 mmol) in dry THF (10 mL) was added NaH (236 mg, 5.91 mmol) at 0° C. under N2, and the mixture was stirred at rt overnight. The reaction was quenched with water, and the mixture was extracted with EtOAc. The organic layer was washed with brine, dried over Na2SO4, filtered and concentrated to afford the crude product, which was purified by preparative TLC to give 6-allyl-3-tert-butyl-6-phenyl-1,3-oxazinan-2-one (325 mg, 61%). 1H NMR (CDCl3): 1.23 (s, 9H), 2.01-2.21 (m, 1H), 2.28-2.34 (m, 1H), 2.45-2.59 (m, 2H), 2.71-2.81 (m, 1H), 3.13-3.21 (m, 1H), 4.92-5.02 (m, 2H), 5.53-5.63 (m, 1H), 7.21-7.34 (m, 5H).

reactant | methyl tert-butyl(3-hydroxy-3-phenylhex-5-enyl)carbamate | 1.97 mmol, 600 mg | C(C)(C)(C)N(C(OC)=O)CCC(CC=C)(C1=CC=CC=C1)O | C18H27NO3
reactant | NaH | 5.91 mmol, 236 mg | [H-].[Na+]
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 6-allyl-3-tert-butyl-6-phenyl-1,3-oxazinan-2-one | 325 mg, 61% | C(C=C)C1(CCN(C(O1)=O)C(C)(C)C)C1=CC=CC=C1 | C17H23NO2
